US04937373
A mixture of 10 g (46 mmol) of 1-bromo-3,4-dimethoxybenzene, 3.4 g (48 mmol) of 3-butyn-1-ol and 8 mL (58 mmol) of triethylamine in 20 mL of methylene chloride was stirred and flushed with argon. To the mixture there was added 0.12 g (0.06 mmol) of cuprous iodide and 0.30 g (0.43 mmol) of bis(triphenylphosphine)palladium dichloride. The reaction mixture was stirred at room temperature for 4 hours and at reflux for 16 hours. After filtration, the filtrate was washed with water, dried and concentrated. The crude product was purified by HPLC using 30% ethyl acetate-toluene to give 3.0 g (32% yield) of 4-(3,4-dimethoxyphenyl)-3-butyn-1-ol.

reactant | 1-bromo-3,4-dimethoxybenzene | 46 mmol, 10 g | BrC1=CC(=C(C=C1)OC)OC | C8H9BrO2
reactant | 3-butyn-1-ol | 48 mmol, 3.4 g | C(CC#C)O | C4H6O
reactant | triethylamine | 58 mmol, 8 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | bis(triphenylphosphine)palladium dichloride | 0.43 mmol, 0.30 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-(3,4-dimethoxyphenyl)-3-butyn-1-ol | 3.0 g, 32% yield | COC=1C=C(C=CC1OC)C#CCCO | C12H14O3
